US08629270B2
tert-Butyl 3-amino-3-(2-fluorophenyl)-4-(hydroxymethyl)pyrrolidine-1-carboxylate
A mixture of tert-butyl 6a-(2-fluorophenyl)-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole-5-carboxylate (5 g, 16.2 mmol) and zinc dust (10.6 g 0.16 mol) is treated with acetic acid (65 mL) in one portion under nitrogen at room temperature. The resulting mixture is stirred for 0.5 hour, diluted with ethyl acetate, and filtered through diatomaceous earth. The filtrate is added drop-wise to a mixture of saturated sodium bicarbonate in water containing an excess of solid sodium bicarbonate (84 g, 1 mol). The mixture is extracted with ethyl acetate, the organic phase is dried over magnesium sulfate, and the solvent removed under vacuum. The residue is purified by silica gel chromatography eluting with ethyl acetate to give the title compound (4.4 g, 87%). ES/MS (m/e): 311 (M+H).

reactant | tert-butyl 6a-(2-fluorophenyl)-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole-5-carboxylate | 16.2 mmol, 5 g | FC1=C(C=CC=C1)C12NOCC1CN(C2)C(=O)OC(C)(C)C | C16H21FN2O3
reactant | acetic acid | 65 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | 1 mol, 84 g | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | zinc | 0.16 mol, 10.6 g | [Zn] | Zn
product | tert-Butyl 3-amino-3-(2-fluorophenyl)-4-(hydroxymethyl)pyrrolidine-1-carboxylate | 4.4 g, 87% | NC1(CN(CC1CO)C(=O)OC(C)(C)C)C1=C(C=CC=C1)F | C16H23FN2O3
